data/pmechdb/original/mc_train_fold0/raw/train.txt
CC(=CC1CC(=C)CC(O1)C[CH2:20][O:21][P+:22](C2=CC=CC=C2)(C3=CC=CC=C3)C4=CC=CC=C4)Br.C1=CC=C(C=C1)N2C(=NN=N2)[S-:10].CCOC(=O)NNC(=O)OCC>>CC(=CC1CC(=C)CC(O1)C[CH2:20][S:10]C2=NN=NN2C3=CC=CC=C3)Br.C1=CC=C(C=C1)[P:22](=[O:21])(C2=CC=CC=C2)C3=CC=CC=C3.CCOC(=O)NNC(=O)OCC 10=20;20,21=21,22
C[C:20]1([CH2:10][P-:11](=O)([O:21]1)(C)C)C>>C[C:20](=[CH2:10])C.C[P:11](=O)(C)[O-:21] 10,11=10,20;20,21=21
[H:20][O:21]C1=C(C=C(C=C1)Br)[C:11](=[CH:10]CCC)[OH:12].C1CC([N+](=CC2=CC=C(C=C2)[N+](=O)[O-])C1)C3=NN=NN3.C(=O)(C(F)(F)F)[O-].O>>[H:20][CH:10](CCC)[C:11](=[OH+:12])C1=C(C=CC(=C1)Br)[O-:21].C1CC([N+](=CC2=CC=C(C=C2)[N+](=O)[O-])C1)C3=NN=NN3.C(=O)(C(F)(F)F)[O-].O 10,11=10,20;20,21=21;12=11
CCN1C(CC2(C1NC3=CC=CC=C32)C45CC(N(C4NC6=CC=CC=C56)CC)C=O)CO[I:10]7(C8=C(C=CC=C8)C(=O)O7)(OC(=O)C)[O:11]C(=O)C.CC(=O)O.CC(=O)OI1C2=C(C=CC=C2)C(=O)O1>>CCN1C(CC2(C1NC3=CC=CC=C32)C45CC(N(C4NC6=CC=CC=C56)CC)C=O)CO[I+:10]7(C8=C(C=CC=C8)C(=O)O7)OC(=O)C.CC(=O)[O-:11].CC(=O)O.CC(=O)OI1C2=C(C=CC=C2)C(=O)O1 10,11=11
[H:20][O:21]S(=O)(=O)O.CCNC(CCC(=O)NC)(O)[O:10]CC>>[H:20][O+:10](CC)C(CCC(=O)NC)(NCC)O.OS(=O)(=O)[O-:21] 10=20;20,21=21
CC1=CC=C(C=C1)[S:20](=O)([NH2+]CCC2=C(C=C3C(=C2)OCO3)I)([O-:10])[Cl:21].CC[NH+](CC)CC.[Cl-]>>CC1=CC=C(C=C1)[S:20](=O)(=[O:10])[NH2+]CCC2=C(C=C3C(=C2)OCO3)I.[Cl-:21].CC[NH+](CC)CC.[Cl-] 10=20;20,21=21
[H:10][BH3-:11].C1CC[C:20](=[O:21])C(C1)CCCN>>[H:10][C:20]1(CCCCC1CCCN)[O-:21].[BH3:11] 10,11=10,20;20,21=21
[H:20][C:21]1(C=C[C+:24]([CH:23]=[CH:22]1)OC(=O)C2=CC=CC=C2)[N+](=O)[O-].OS(=O)(=O)[O-:10]>>[H:20][O:10]S(=O)(=O)O.C1=CC=C(C=C1)C(=O)O[C:24]2=[CH:23][CH:22]=[C:21](C=C2)[N+](=O)[O-] 10=20;20,21=21,22;22,23=23,24
C[C:20](=[O+:21]C)OC.C[SH:10]>>C[C:20](OC)([O:21]C)[SH+:10]C 10=20;20,21=21
C[Si:20](C)(C)Cl.C1=CC=C(C=C1)[O-:10]>>C[Si-:20](C)(C)([O:10]C1=CC=CC=C1)Cl 10=20,
CC[CH2:20][O:21]S(=O)(=O)C.[OH-:10]>>CC[CH2:20][OH:10].CS(=O)(=O)[O-:21] 10=20;20,21=21
[H:20][O+:21]1C(CC2(CCCCC2=C)CC1(O)O)CC.[OH2:10]>>[H:20][OH2+:10].CCC1CC2(CCCCC2=C)CC([O:21]1)(O)O 10=20;20,21=21
[H:20][C:21]1(CC([O+:23]=[C:22]1C2=CC=CC=C2)(C3=CC=CC=C3)O)C#N.CC1=CC=C(C=C1)S(=O)(=O)[O-:10].C1=CC=CC=C1>>[H:20][O:10]S(=O)(=O)C1=CC=C(C=C1)C.C1[C:21](=[C:22]([O:23]C1(C2=CC=CC=C2)O)C3=CC=CC=C3)C#N.C1=CC=CC=C1 10=20;22,23=23;20,21=21,22
[B-:13]1(OC(C(O1)C(=O)OC(C)C)C(=O)OC(C)C)([CH2:12][CH:11]=[C:10]=C)[O+:21]=[CH:20]CC2(C(CCC3(C2CCC=C3COCC4=CC=C(C=C4)OC)C)C)C>>[B:13]1(OC(C(O1)C(=O)OC(C)C)C(=O)OC(C)C)[O:21][CH:20](CC2(C(CCC3(C2CCC=C3COCC4=CC=C(C=C4)OC)C)C)C)[C:10](=C)[CH:11]=[CH2:12] 10,11=10,20;20,21=21;12,13=11,12
CC[NH2+:21][CH:20](C)[OH:10]>>CC[NH2:21].C[CH:20]=[OH+:10] 10=20;20,21=21
CC([C:20](NC1=C(C=CC=C1)C(=O)NC(CC2=CNC3=CC=CC=C32)C(=O)OC)([O-:10])[Cl:21])NC(=O)OCC4C5=C(C=CC=C5)C6=CC=CC=C46.C(=O)(O)O[Na].O.[Na+]>>CC([C:20](=[O:10])NC1=C(C=CC=C1)C(=O)NC(CC2=CNC3=CC=CC=C32)C(=O)OC)NC(=O)OCC4C5=C(C=CC=C5)C6=CC=CC=C46.[Cl-:21].C(=O)(O)O[Na].O.[Na+] 10=20;20,21=21
CC1=CC2=C(C=C1)N=[C+:20]CCC2C3=CC=CC=C3.[OH2:10].OP(=O)(O)OP(=O)(O)[O-]>>CC1=CC2=C(C=C1)N=[C:20](CCC2C3=CC=CC=C3)[OH2+:10].OP(=O)(O)OP(=O)(O)[O-] 10=20,
C[C:20]1(OC(C(C(=O)[O:21]1)C2=CC(=C(C(=C2)OC)OC)OC)C3=CC(=C(C=C3)OC)O)[O-:10].CC[NH+](CC)CC.CC(=O)[O-]>>C[C:20](=[O:10])OC(C1=CC(=C(C=C1)OC)O)C(C2=CC(=C(C(=C2)OC)OC)OC)C(=O)[O-:21].CC[NH+](CC)CC.CC(=O)[O-] 10=20;20,21=21
[H:20][Cl:21].COC1=C(C(=C(C=C1)OC)Br)C2OCCC[O:10]2.C1CCOC1.O>>[H:20][O+:10]1CCCOC1C2=C(C=CC(=C2Br)OC)OC.[Cl-:21].C1CCOC1.O 10=20;20,21=21
C[C:20](=[O:21])OC(=O)CCC=O.C[O-:10]>>C[C:20]([O-:21])([O:10]C)OC(=O)CCC=O 10=20;20,21=21
[H:20][C:21]([CH:22]=[O:23])(Br)Br.[OH-:10]>>[H:20][OH:10].[CH:22](=[C:21](Br)Br)[O-:23] 10=20;22,23=23;20,21=21,22
[CH2:20]=[CH:21][C:22]#[N:23].[C-:10]#N>>[CH2:20]([CH:21]=[C:22]=[N-:23])[C:10]#N 10=20;22,23=23;20,21=21,22
[H:20][NH+:21]1CCCCC1.CCOC(=O)CC(=[O:10])C.CCC(C)CC=[N+]1CCCCC1.CC(=O)[O-].O>>[H:20][O+:10]=C(C)CC(=O)OCC.C1CC[NH:21]CC1.CCC(C)CC=[N+]1CCCCC1.CC(=O)[O-].O 10=20;20,21=21
[CH:10]1=[CH:11][CH:12]=[C:13](C=C1)Cl.[CH:20](=[OH+:21])C(Cl)(Cl)Cl.OS(=O)(=O)[O-]>>C1=C[C+:13]([CH:12]=[CH:11][CH:10]1[CH:20](C(Cl)(Cl)Cl)[OH:21])Cl.OS(=O)(=O)[O-] 10,11=10,20;20,21=21;12,13=11,12
[H:20][CH:21]1CCC2=CC(=CC=C2[C:22]1=[N+:23]3CCOCC3)Br.C1COCC[NH:10]1.O[Ti-](Cl)(Cl)(Cl)Cl>>[H:20][NH+:10]1CCOCC1.C1CC2=CC(=CC=C2[C:22](=[CH:21]1)[N:23]3CCOCC3)Br.O[Ti-](Cl)(Cl)(Cl)Cl 10=20;22,23=23;20,21=21,22
[H:20][OH:21].COC1=C2C3=C(CC4C5(C3(CCN4CC6CCC6)C(O2)C(CC5)([NH2+]N)[O-:10])O)C=C1.C(COCCO)O>>[H:20][O:10]C1(CCC2(C3CC4=C5C2(C1OC5=C(C=C4)OC)CCN3CC6CCC6)O)[NH2+]N.[OH-:21].C(COCCO)O 10=20;20,21=21
[H:20][CH2:21][CH:22]=[OH+:23].[OH2:10]>>[H:20][OH2+:10].[CH2:21]=[CH:22][OH:23] 10=20;22,23=23;20,21=21,22
[H:20][C:21](C1=CC=CC=C1)(C(=O)OC2C3=C(C=CC=C3)N(C2=O)CC4=CC=CC=C4)N=NNS(=O)(=O)C5=CC=C(C=C5)NC(=O)C.C1CCC2=[N:10]CCCN2CC1>>[H:20][N+:10]1=C2CCCCCN2CCC1.CC(=O)NC1=CC=C(C=C1)S(=O)(=O)NN=N[C-:21](C2=CC=CC=C2)C(=O)OC3C4=C(C=CC=C4)N(C3=O)CC5=CC=CC=C5 10=20;20,21=21
CCOC(=O)[C:20](=[O:21])OCC.C[CH:10]=[C:11](C)[O-:12]>>CCOC(=O)[C:20]([CH:10](C)[C:11](=[O:12])C)([O-:21])OCC 10,11=10,20;20,21=21;12=11
